US04368325
Acetic anhydride (5 ml), sodium acetate (0.61 g) and potassium acetate (0.73 g) were added a solution of 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 5 g) in dry tetrahydrofuran (50 ml), and stirred at 28° to 29° C. for 4 hours. After hydrogen bromide (5 ml) was added to the resultant solution, tetrahydrofuran was removed under reduced pressure therefrom. To the residue was added water (30 ml) and ethyl acetate (100 ml). The organic layer was separated, washed with water and 30% aqueous solution of sodium bromide in turn, and then dried over anhydrous magnesium sulfate. The solution was treated with activated charcoal, and concentrated under reduced pressure, and then the residue was pulverized with diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 2.85 g).

reactant | Acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.61 g | C(C)(=O)[O-].[Na+]
reactant | potassium acetate | 0.73 g | C(C)(=O)[O-].[K+]
reactant | 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-hydroxycepham-4-carboxylic acid | 5 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(C(Br)Br)=O | C12H13Br2N3O7S
reactant | hydrogen bromide | 5 ml | Br | BrH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-cephem-4-carboxylic acid | 2.85 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(C(Br)Br)=O | C12H11Br2N3O6S
